US06812237B2
A mixture of benzyl (S)-2-(3-methoxycarbonylphenylamino)-3-(3-methylphenyl)-propionate (0.25 g, 0.62 mmol) and 10% Pd/C (0.25 g) in EtOH (25 mL) is hydrogenated at 1 atm for 1 h. The mixture is filtered through celite and evaporated to yield (S)-2-(3-methoxycarbonylphenylamino)-3-(3-methylphenyl)-propionic acid, as a grey oil.

reactant | benzyl (S)-2-(3-methoxycarbonylphenylamino)-3-(3-methylphenyl)-propionate | 0.62 mmol, 0.25 g | COC(=O)C=1C=C(C=CC1)N[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC(=CC=C1)C | C25H25NO4
solvent | EtOH | 25 mL | CCO | C2H6O
catalyst | Pd/C | 0.25 g | [Pd] | Pd
product | (S)-2-(3-methoxycarbonylphenylamino)-3-(3-methylphenyl)-propionic acid | COC(=O)C=1C=C(C=CC1)N[C@H](C(=O)O)CC1=CC(=CC=C1)C | C18H19NO4
